US07696223B2
a) 7-Cyano-1-(3-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 133(a) from 2,3-dibromo-1-(3-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester and NBS in MeCN to give tribromo intermediate; which was subjected to a cyanation condition CuCN/NMP similar to that of Example 105(a) to give the C-7 CN intermediate; which was further subjected to a reductive debromination condition (ammonium formate, Pd/C in refluxing EtOAc) similar to that of Example 6(a) to give the desired title compound. The title compound, ESI MS (m/z): 340 (M+H)+.

reactant | 2,3-dibromo-1-(3-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)CC2=CC(=CC=C2)F)O | C17H13Br2FN2O3
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | CuCN NMP | C(#N)[Cu].CN1CCCC1=O
reactant | ammonium formate | C(=O)[O-].[NH4+]
solvent | MeCN | CC#N | C2H3N
catalyst | Pd/C | [Pd] | Pd
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Cyano-1-(3-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2)CC2=CC(=CC=C2)F)O | C18H14FN3O3
